US04762835
A mixture of 2-[4-(prop-2-yn-1-yl)-2,3,5,6-tetrafluorobenzyloxy]tetrahydropyran (0.8 g), dilute hydrochloric acid (2N, 5 cm3) and methanol (30 cm3) was stirred together at the ambient temperature for 2 hours, after which the more volatile portion was removed by evaporation under reduced pressure. The residue was extracted with diethyl ether, the extracts combined, washed with water, and dried over anhydrous magnesium sulphate. Removal of the solvent by evaporation under reduced pressure yielded an oil which crystallised on standing to give 4-(prop-2-yn-1-yl)-2,3,5,6-tetrafluorobenzyl alcohol (0.5 g), m.p. 51°-52° C., after recrystallisation from petroleum ether (boiling range 60°-80° C.).

reactant | 2-[4-(prop-2-yn-1-yl)-2,3,5,6-tetrafluorobenzyloxy]tetrahydropyran | 0.8 g | C(C#C)C1=C(C(=C(COC2OCCCC2)C(=C1F)F)F)F | C15H14F4O2
reactant | hydrochloric acid | 2N, 5 cm3 | Cl | ClH
solvent | methanol | 30 cm3 | CO | CH4O
product | 4-(prop-2-yn-1-yl)-2,3,5,6-tetrafluorobenzyl alcohol | 0.5 g | C(C#C)C1=C(C(=C(CO)C(=C1F)F)F)F | C10H6F4O
